US04937251
3-(5-Bromo-2-pyridinyl)-2-propyn-1-ol
Copper (I) iodide (10 mg) was added to a solution of 2,5-dibromopyridine (4.74 g), propargyl alcohol (1.34 g) and BTPC (75 mg) in diethylamine (50 ml) and the mixture stirred overnight (18 h), under nitrogen. The solution was evaporated in vacuo and the residue treated with 8% sodium bicarbonate (50 ml) and partitioned with dichloromethane (3×50 ml). The combined extracts were dried and evaporated and the residual semi-solid purified by FCC. Eluting with ether afforded the title compound (3.43 g) as fawn crystals m.p. 121°-122°.

reactant | 2,5-dibromopyridine | 4.74 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | propargyl alcohol | 1.34 g | C(C#C)O | C3H4O
solvent | diethylamine | 50 ml | C(C)NCC | C4H11N
catalyst | Copper (I) iodide | 10 mg | [Cu]I
product | 3-(5-Bromo-2-pyridinyl)-2-propyn-1-ol | 3.43 g | BrC=1C=CC(=NC1)C#CCO | C8H6BrNO
